US04022797
Reacting 2-(3-aminopropylthio)oxazole with S-methyl-N-nitroisothiourea by the procedure of Example 2(ii) gives N-nitro-N'-[3-(2-oxazolyl)thiopropyl]guanidine. Similarly, reaction of the same starting material with N,S-dimethyl-N'-nitroisothiourea by the procedure of Example 2(iii) gives N-methyl-N'-nitro-N"-[3-(2-oxazolyl)thiopropyl]guanidine.

reactant | 2-(3-aminopropylthio)oxazole | NCCCSC=1OC=CN1 | C6H10N2OS
reactant | S-methyl-N-nitroisothiourea | CSC(N[N+](=O)[O-])=N | C2H5N3O2S
product | N-nitro-N'-[3-(2-oxazolyl)thiopropyl]guanidine | [N+](=O)([O-])NC(=N)NCCCSC=1OC=CN1 | C7H11N5O3S
